US04801609
Method 2: S-Phenethyl-L-Cysteine Ethyl Ester Hydrochloride:
Add thionyl chloride (2.0 ml) to absolute ethanol (25 ml) at 0°-5°. To this solution add S-phenethyl-L-cysteine (2.5 g, 1.11 mmole). Warm the resulting mixture to room temperature, and then heat at 60° for 5 hours. Concentrate the reaction mixture in vacuo, dissolve the resultant residue in dichloromethane (CH2Cl2), and concentrate the solution in vacuo. Dissolve the residue in absolute ethanol, treat with DARCO, filter and concentrate in vacuo to give the title compound, a white solid (2.90 g) m.p. 155°-156°, [α]D26 =-1.5° (MeOH).

reactant | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | S-phenethyl-L-cysteine | 1.11 mmole, 2.5 g | C(CC1=CC=CC=C1)SC[C@H](N)C(=O)O | C11H15NO2S
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | S-Phenethyl-L-Cysteine Ethyl Ester Hydrochloride | Cl.C(C)OC([C@@H](N)CSCCC1=CC=CC=C1)=O | InChI=1S/C13H19NO2S.ClH/c1-2-16-13(15)12(14)10-17-9-8-11-6-4-3-5-7-11;/h3-7,12H,2,8-10,14H2,1H3;1H/t12-;/m0./s1
